data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_434909_1,[C:1](/[C:4]([C:3]([O:8][H:11])=[O:10])=[N:9]/[C:7](=[C:5](/[C:2]([H:18])([H:19])[H:20])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:4]1([C:3]([O:8][H:11])=[O:10])[C:5]([C:2]([H:18])([H:19])[H:20])([N:6]([H:12])[H:13])[C:7]([H:14])=[N:9]1)([H:15])([H:16])[H:17],49.46958999997932
MR_571076_2,[C:1]([C:3]([C:4]([C:2]([N:5]([H:11])[H:12])=[O:7])([N:6]([H:13])[H:14])[O:8][H:10])=[O:9])([H:15])([H:16])[H:17]>>[C:1]([C:3]([O:7]/[C:2](=[C:4](\[N:6]([H:13])[H:14])[O:8][H:10])[N:5]([H:11])[H:12])=[O:9])([H:15])([H:16])[H:17],61.430994999991526
MR_367144_0,[C:1]([N:3]([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])[H:7])([N:5]([H:8])[H:9])([H:10])[H:11]>>[C:1]([N:3]([N:5]([H:8])[H:9])[H:7])([C:4]([C:2]([H:12])([H:13])[H:14])=[O:6])([H:10])[H:11],63.67618999999437
MR_603963_0,[C:1](/[C:6](=[C:5](/[C:4](=[C:7]([C:2]([H:19])([H:20])[H:24])[C:3]([H:21])([H:22])[H:23])[O:10][H:11])[N:8]([H:12])[H:13])[N:9]([H:14])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:6]1([N:9]([H:14])[H:15])[C:5]([N:8]([H:12])[H:13])=[C:4]([O:10][H:11])[C:7]1([C:2]([H:19])([H:20])[H:24])[C:3]([H:21])([H:22])[H:23])([H:16])([H:17])[H:18],46.16141000002074
MR_420790_1,[C:1]([N:3]([H:9])[H:10])([C:4](=[C:5]([H:15])[H:16])[H:11])([O:6][C:2]([H:12])([H:13])[H:14])[O:7][H:8]>>[C:1](\[N:3]([H:9])[H:10])(=[C:4](\[C:5]([O:6][C:2]([H:12])([H:13])[H:14])([H:15])[H:16])[H:11])[O:7][H:8],47.48480749999672
MR_336628_1,[C:1](/[C:4](=[C:3]([N:6]([H:13])[H:14])/[N:9]=[C:2](\[N:5]([H:11])[H:12])[O:8][H:10])[N:7]([H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C:4]1([N:7]([H:15])[H:16])[C:2]([N:5]([H:11])[H:12])([O:8][H:10])[N:9]=[C:3]1[N:6]([H:13])[H:14])([H:17])([H:18])[H:19],39.85942749998756
MR_487003_0,[C:1]([N:3]([N:4]([C:2]([H:16])([H:17])[H:18])/[N:8]=[C:6](/[N:5]([H:10])[H:11])[H:12])[O:7][H:9])([H:13])([H:14])[H:15]>>[C:1]([N:3]([C@:6]([N:5]([H:10])[H:11])(/[N:8]=[N:4]/[C:2]([H:16])([H:17])[H:18])[H:12])[O:7][H:9])([H:13])([H:14])[H:15],40.672667499967474
MR_87421_0,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])([C:6]([C:7]([C:4]([H:19])([H:20])[H:24])[C:5]([H:21])([H:22])[H:23])[N:8]([H:11])[H:12])[O:9][H:10]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([C:3]([H:16])([H:17])[H:18])[C:6]([N:8]([H:11])[H:12])([O:9][H:10])[C:7]1([C:4]([H:19])([H:20])[H:24])[C:5]([H:21])([H:22])[H:23],71.4873099999626
MR_319111_1,[C:1]([C:3]([C:2]([N:5]([H:12])[H:13])([C:6](=[C:7]([H:20])[H:21])[H:16])[H:11])([H:14])[H:15])([C:4]([H:17])([H:18])[H:19])([O:8][H:9])[H:10]>>[C:1]1([C:4]([H:17])([H:18])[H:19])([H:10])[C:3]([H:14])([H:15])[C:2]([N:5]([H:12])[H:13])([H:11])[C:6]([C:7]([H:9])([H:20])[H:21])([H:16])[O:8]1,53.07959750003192
MR_522091_1,[C:1](/[C:3](=[C:2](/[C:6]([H:19])([H:20])[H:21])[H:12])[H:13])([C:5]([C:4]([O:7][H:14])([H:15])[H:16])([H:17])[H:18])([O:8][H:10])[O:9][H:11]>>[C:1]1([O:8][H:10])([O:9][H:11])[C:3]([H:13])([H:14])[C:2]([C:6]([H:19])([H:20])[H:21])([H:12])[O:7][C:4]([H:15])([H:16])[C:5]1([H:17])[H:18],65.33278999998515
MR_261483_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:5](/[N:4]([H:8])[H:9])[H:12])([O:6][H:7])([H:10])[H:11]>>[C:1](=[C:3]([C:2]([H:13])([H:14])[H:15])[C:5]([N:4]([H:8])[H:9])([O:6][H:7])[H:12])([H:10])[H:11],49.590697499994576
MR_644443_0,[C:1](/[C:5](=[C:7]([C:6](=[C:4](/[N:2]([N:3]([H:11])[H:12])[H:9])[H:13])\[H:15])/[H:16])[H:14])(=[O:8])[H:10]>>[C:1]1([O:8][H:9])([H:10])[N:2]([N:3]([H:11])[H:12])[C:4]([H:13])=[C:6]([H:15])[C:7]([H:16])=[C:5]1[H:14],46.90687999999341
MR_546271_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3](=[C:5]([H:15])[H:16])[O:8][H:10])([C:4](=[C:6]([H:17])[H:18])[H:11])[O:7][H:9]>>[C:1]([C:2]([H:12])([H:13])[H:14])([C:4]([C:3](=[C:5]([H:15])[H:16])[O:8][H:10])([C:6]([H:9])([H:17])[H:18])[H:11])=[O:7],69.52699999995389
MR_647831_1,[C:1]([C:2]([C:3]([N:6]([H:15])[H:16])=[O:8])([N:5]([H:13])[H:14])[O:7][H:10])([N:4]([H:11])[H:12])=[O:9]>>[C:1]([N:4]([H:11])[H:12])([O:7]/[C:2](=[C:3](/[N:6]([H:15])[H:16])[O:8][H:10])[N:5]([H:13])[H:14])=[O:9],61.638697500002166
MR_45819_0,[C@@:1]12([H:9])[C@@:2]([H:10])([C@@:3]1([C:4]([H:12])([H:13])[H:14])[H:11])[C:7]([C:5]([H:15])([H:17])[H:18])=[C:8]2[C:6]([H:16])([H:19])[H:20]>>[C@:1]12([H:9])[C:2]([H:10])=[C:7]([C:5]([H:15])([H:17])[H:18])[C@@:8]1([C:6]([H:16])([H:19])[H:20])[C@:3]2([C:4]([H:12])([H:13])[H:14])[H:11],35.908060000012085
MR_276589_0,[C:1]([N:4]([O:7][H:9])[H:11])([C:5]([C:2]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14])=[C:6]([H:15])[H:16])([O:8][H:10])[H:12]>>[C:1](=[C:5](\[C:2]([C:3]([H:17])([H:18])[H:19])([H:13])[H:14])[C:6]([N:4]([O:7][H:9])[H:11])([H:15])[H:16])(\[O:8][H:10])[H:12],66.38259749997417
MR_13808_0,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([N:5]([C:6]([C:2]([H:12])([H:13])[H:14])=[O:8])[N:7]([H:10])[H:11])[H:9]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([O:8]/[C:6]([C:2]([H:12])([H:13])[H:14])=[N:5]/[N:7]([H:10])[H:11])[H:9],61.65877749998714
